US05041453
0.66 g of ethyl 7-(4-(quinoline-2-ylmethyloxy)phenoxymethyl)benzoxazole-2-carboxylate and 0.7 g sodium bicarbonate are combined in 50 ml of ethanol and 5 ml of water. After refluxing for 1.5 hours the mixture is concentrated and the residue diluted with ether. The resulting solid is collected, suspended in water and the pH adjusted to 6 with 1 molar hydrochloric acid. The resulting solid is crystallized from aqueous acetic acid, then tetrahydrofuran/hexane to give 7-(4-(quinolin-2-ylmethyloxy)phenoxymethyl)benzoxazole-2-carboxylic acid.

reactant | ethyl 7-(4-(quinoline-2-ylmethyloxy)phenoxymethyl)benzoxazole-2-carboxylate | 0.66 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCC2=CC=CC=3N=C(OC32)C(=O)OCC)C=C1 | C27H22N2O5
reactant | sodium bicarbonate | 0.7 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 7-(4-(quinolin-2-ylmethyloxy)phenoxymethyl)benzoxazole-2-carboxylic acid | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCC2=CC=CC=3N=C(OC32)C(=O)O)C=C1 | C25H18N2O5
